### PR TITLE
[Merged by Bors] - feat(NumberTheory/SiegelsLemma): Siegel's lemma for small integral non-trivial solutions of linear systems

### PR DESCRIPTION
**Pull request by fbarroero**
This PR contains the proof of [Siegel's Lemma](https://en.wikipedia.org/wiki/Siegel%27s_lemma).
This is a fundamental tool in diophantine approximation and transcendency and says that there exists a "small" integral
non-zero solution of a non-trivial underdetermined system of linear equations with integer coefficients.

theorem `exists_ne_zero_int_vec_norm_le`: Given a non-singular `m × n` matrix `A` with `m < n` the linear
system it determines has a non-zero integer solution `t` with
`‖t‖ ≤ ((n * ‖A‖) ^ ((m : ℝ) / (n - m)))`

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Siegel's.20Lemma)

Co-authored-by: Laura Capuano and Amos Turchet @amosturchet 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by faenuccio** [comment]
Does this PR depend on the previous one (in the sense that it is branched from the other, or that it needs the other to be mergeable)?

**Comment by fbarroero** [comment]
> Does this PR depend on the previous one (in the sense that it is branched from the other, or that it needs the other to be mergeable)?

No, it is independent.

**Comment by faenuccio** [comment]
Really? But the file `Mathlib/NumberTheory/SiegelsLemma.lean` is introduced both in this PR and in #13470 . Assuming #13470 gets merged as it is, you do not want to re-modify lines 1-50, you will want to build upon the outcome of that PR. No?

**Comment by fbarroero** [comment]
Yes, I just thought once #13470 is merged I would get a conflict with this and then fix it, or the other way around if this PR is merged first. I am new to this so I do not know what is the best way to proceed. If you think it is better to branch from #13470 I will just get rid of this one and make a new PR.

**Comment by faenuccio** [comment]
No, one simply needs to add (as I just did) this dependency in the main message.

**Comment by fbarroero** [comment]
Thanks Filippo!

File: docs/references.bib [hunk 1]
```diff
@@ -1722,7 +1722,18 @@ @Article{         Higman52
...
+   title         = {Diophantine geometry},
+   series        = {Graduate Texts in Mathematics},
+   volume        = {201},
+   note          = {An introduction},
+   publisher     = {Springer-Verlag, New York},
+   year          = {2000},
+   pages         = {xiv+558}
+ }
+
+ @Unpublished{     hochsterunpublished,
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply docs/references.bib]: This is probably a bug of the bot or something. You have to put the item in alphabetical order manually I think.

File: Mathlib.lean [hunk 2]
```diff
@@ -3212,6 +3212,7 @@ import Mathlib.NumberTheory.Primorial
 import Mathlib.NumberTheory.PythagoreanTriples
 import Mathlib.NumberTheory.RamificationInertia
 import Mathlib.NumberTheory.Rayleigh
+import Mathlib.NumberTheory.SiegelsLemma
```
Comment (riccardobrasca) [inline Mathlib.lean:3215]: I think `Siegel` is a better name for the file (judging on other names in mathlib), but this is not very important.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 3]
```diff
@@ -0,0 +1,242 @@
...
+attribute [local instance] Matrix.seminormedAddCommGroup
+
+namespace Matrix
+
+open Matrix Finset
+
+variable {m n : Type*} [Fintype m] [Fintype n]
+
+/-- The norm of an integral matrix as the sup of the sup of the natAbs of the entries -/
+def natNorm (A : Matrix m n ℤ) : ℕ := sup univ fun i ↦ sup univ fun j ↦ (A i j).natAbs
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/SiegelsLemma.lean:43]: Is it really too painful to use the "standard" norm?

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 4]
```diff
@@ -0,0 +1,242 @@
...
+      _  = ↑((B + 1) ^ n) := by
+        rw [mul_comm, pow_mul_pow_sub]
+        simp only [cast_pow, cast_add, cast_one]
+        exact (le_of_lt hn)
+
+--end (2)
+
+end preparation
+
+theorem exists_ne_zero_int_vec_norm_le  (hA_nezero : A ≠ 0)  : ∃ (t : Fin n → ℤ), t ≠ 0 ∧
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/SiegelsLemma.lean:208]: We are in the root namespace, right? I guess `Matrix` or something would be better.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 5]
```diff
@@ -0,0 +1,242 @@
...
+      rw [← Int.cast_add, Int.cast_le]
+      apply le_trans (hyT.2 i)
+      simp only [le_add_iff_nonneg_left]
+      exact hxT.1 i
+    · simp only [ tsub_le_iff_right]
+      rw [← Int.cast_add,Int.cast_le]
+      apply le_trans (hxT.2 i)
+      simp only [tsub_le_iff_right, le_add_iff_nonneg_right]
+      exact hyT.1 i
+  exact le_trans this (Nat.floor_le n_mul_norm_A_pow_e_nonneg)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/SiegelsLemma.lean:242]: Can you use `refine ... ?_ ...`, where the `?_` corresponds to `this` here? It would make the proof nicer.

File: Mathlib.lean (hunk 2 above)
Comment (fbarroero) [reply Mathlib.lean:3215]: The guy proved so many very important results that I felt it was not really fair to call `Siegel` a file with only this small (but fundamental) result.

I wonder if we should create a `DiophantineApproximation` folder inside `NumberTheory` and collect this file (which could then be called `Siegel` without shame), the files `DiophantineApproximation` and `WellApproximable` and the folder `Liouville` (I might be missing something) and put them in there.

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 5 above)
Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean]: Done!

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 3 above)
Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: @faenuccio.. People seem not to like this `natNorm`.
After some thought I think I can get rid of it, and work with $\|| A \||$ only. It is going to be quite a bit of work and I think the code is going to look uglier, or maybe not... who knows...
What do you say? Should I try to do it?

File: Mathlib.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib.lean:3215]: Yes, a folder is certainly a good idea (and you're right, a file called Siegel in `NumberTheory` is not very good...).

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: The "normal" norm is a real number?

Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: Yes

File: Mathlib.lean (hunk 2 above)
Comment (fbarroero) [reply Mathlib.lean:3215]: Should I open a discussion on zulip?

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: I think we will have the good answer only after some trials. In case you end up duplicating a lot of code (especially to prove that this norm is actually integral/positive) then it will be worth it create something, but this will become clearer only after some trial-and-error. You can start without and see how things go.

File: Mathlib.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib.lean:3215]: I think you can freely create a folder called DiophantineApproximation, but on the other hand I believe that the lemma should not be called Siegel's lemma (the file could, if needed). It would be better if the name "tells" what is going on.

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: Let me see if I can avoid it.

Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: I think one can make a lemma that extracts the indices `i` and `j` that realise the sups in the norm and then work with that. It would be something like $\exists i, j :  \|| A \|| = \|| A_{ij}\||$. The RHS is by definition the cast of a `natAbs (A i j)`.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: The real question is if you think this is a useful notion for others results (I guess it is?): in that case it is worth to create a new file, write the def and develop a basic API (even just the lemma you already have).

Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean:43]: Let me think about it. I'll try a couple of things

**Comment by faenuccio** [comment]
OK, let us know when you want a look again!

**Comment by fbarroero** [comment]
> OK, let us know when you want a look again!

So I am done. I got rid of natNorm. It turns out it is not needed. One can prove the inequality of cardinalities using the real number $ \|| A \|| $.

While I was experimenting I wrote the lemma `exists_entry_norm_eq_norm_Matrix` which I think it could be useful in general . If you agree I can make another PR and add the lemma to 'Analysis/Matrix' . Otherwise I will just get rid of it.

It would be great if you guys @faenuccio and @riccardobrasca could take a look now. Thanks in advance!

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 6]
```diff
@@ -0,0 +1,237 @@
...
+
+lemma exists_entry_norm_eq_norm_Matrix [Nonempty m] [Nonempty n] (A : Matrix m n α) :
+    ∃ (i : m) (j : n), ‖A‖ = ‖A i j‖₊ := by
+  simp only [norm_eq_sup_sup_nnnorm]
+  rcases Finset.exists_mem_eq_sup univ univ_nonempty (fun i => univ.sup fun j => ‖A i j‖₊)
+    with ⟨i, hi⟩
+  use i
+  rcases Finset.exists_mem_eq_sup univ univ_nonempty (fun j => ‖A i j‖₊) with ⟨j, hj⟩
+  use j
+  rw [hi.2, hj.2]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/SiegelsLemma.lean:51]:
```suggestion
  simp only [norm_eq_sup_sup_nnnorm]
  obtain ⟨i, hi⟩ := Finset.exists_mem_eq_sup _ univ_nonempty (univ.sup fun j => ‖A · j‖₊)
  obtain ⟨j, hj⟩ := Finset.exists_mem_eq_sup _ univ_nonempty (‖A i ·‖₊)
  exact ⟨i, j, by rw [hi.2, hj.2]⟩
```
and yes, please move this lemma out, to where you suggested to. Than we can revise the whole Siegel part. Thanks!

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SiegelsLemma.lean:51]: I think Mathlib style is to use `↦` (\mapsto) instead of `=>` with `fun`?

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 7]
```diff
@@ -0,0 +1,237 @@
...
+# Step 1: ∀ v ∈  T, (A.mulVec v) ∈  S
+and
+# Step 2: S.card < T.card
+Pigeohole will give different x and y in T with A.mulVec x = A.mulVec y in S
+Their difference is the solution we are looking for
+-/
+
+-- # Step 1: ∀ v ∈  T, (A.mulVec v) ∈  S
+
+private lemma image_T_subset_S : ∀ v ∈ T, (A.mulVec v) ∈ S := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:85]:
```suggestion
private lemma image_T_subset_S : ∀ v ∈ T, A.mulVec v ∈ S := by
```
There are many unnecessary parentheses. I'll flag some of them, but it is best if you try for yourself which ones are really needed.
Also, you can use notation `A *ᵥ v` for the matrix-vector product.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 8]
```diff
@@ -0,0 +1,237 @@
...
+  intro v hv
+  rw [mem_Icc] at hv
+  rw [mem_Icc]
+  have mulVec_def : A.mulVec v =
+      fun i => Finset.sum univ fun (j : (Fin n)) => A i j * v j := by rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:90]:
```suggestion
      fun i ↦ Finset.sum univ fun j : Fin n ↦ A i j * v j := by rfl
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 9]
```diff
@@ -0,0 +1,237 @@
...
+  rw [mulVec_def] -- unfold def of MulVec
+  refine ⟨fun i ↦ ?_, fun i ↦ ?_⟩ -- 2 goals
+  all_goals simp only [mul_neg]
+  all_goals gcongr (∑ _ : Fin n, ?_) with j _ -- get rid of sums
+  all_goals rw [← mul_comm (v j)] -- move A i j to the right of the products
+  all_goals by_cases hsign : 0 ≤ A i j   --we have to distinguish cases: we have now 4 goals
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:96]:
```suggestion
  all_goals
    simp only [mul_neg]
    gcongr (∑ _ : Fin n, ?_) with j _ -- get rid of sums
    rw [← mul_comm (v j)] -- move A i j to the right of the products
    by_cases hsign : 0 ≤ A i j -- we have to distinguish cases: we have now 4 goals
```
I think this is a bit clearer (but I don't think there are clear style preferences on this).

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 10]
```diff
@@ -0,0 +1,237 @@
...
+    exact mul_nonneg (hv.1 j) hsign
+  · rw [not_le] at hsign
+    rw [negPart_eq_neg.2 (le_of_lt hsign)]
+    simp only [mul_neg, neg_neg]
+    exact mul_le_mul_of_nonpos_right (hv.2 j) (le_of_lt hsign)
+  · rw [posPart_eq_self.2  hsign]
+    exact mul_le_mul_of_nonneg_right (hv.2 j) hsign
+  · rw [not_le] at hsign
+    rw [posPart_eq_zero.2 (le_of_lt hsign)]
+    exact mul_nonpos_of_nonneg_of_nonpos (hv.1 j) (le_of_lt hsign)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:107]: Together wthe the `by_cases` line, this can be simplified a bit:
```lean
    rcases le_total 0 (A i j) with hsign | hsign -- we have to distinguish cases: we have now 4 goals
  · rw [negPart_eq_zero.2 hsign]
    exact mul_nonneg (hv.1 j) hsign
  · rw [negPart_eq_neg.2 hsign]
    simp only [mul_neg, neg_neg]
    exact mul_le_mul_of_nonpos_right (hv.2 j) hsign
  · rw [posPart_eq_self.2  hsign]
    exact mul_le_mul_of_nonneg_right (hv.2 j) hsign
  · rw [posPart_eq_zero.2 hsign]
    exact mul_nonpos_of_nonneg_of_nonpos (hv.1 j) hsign
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 11]
```diff
@@ -0,0 +1,237 @@
...
+
+--# Preparation for Step 2
+
+private lemma card_T_eq : (T).card = (B+1)^n := by
+   rw [Pi.card_Icc 0 B']
+   simp only [Pi.zero_apply, Int.card_Icc, sub_zero, Int.toNat_ofNat_add_one, prod_const, card_fin]
+
+variable  (hA : A ≠ 0 )
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:115]:
```suggestion
variable (hA : A ≠ 0)
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 12]
```diff
@@ -0,0 +1,237 @@
...
+
+--This lemma is necessary to be able to apply the formula (Icc a b).card = b + 1 - a
+private lemma N_le_P_add_one : ∀ i : Fin m, N i ≤ P i + 1 := by
+  intro i
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:119]:
```suggestion
private lemma N_le_P_add_one (i : Fin m) : N i ≤ P i + 1 := by
```
The preference is to put universally quantified variables and hypotheses left of the `:`; then one does not need to introduce them at the beginning of the proof.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 13]
```diff
@@ -0,0 +1,237 @@
...
+              apply Finset.sum_nonpos
+              intro j _
+              simp only [mul_neg, Left.neg_nonpos_iff]
+              exact mul_nonneg (Nat.cast_nonneg B) (negPart_nonneg (A i j))
+         _ ≤ P i + 1 := by
+              apply le_trans (Finset.sum_nonneg _) (Int.le_add_one (le_refl P i))
+              intro j _
+              exact mul_nonneg (Nat.cast_nonneg B) (posPart_nonneg (A i j))
+
+private lemma card_S_eq : (Finset.Icc N P).card = (∏ i : Fin m, (P i - N i + 1)):= by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:130]:
```suggestion
private lemma card_S_eq : (Finset.Icc N P).card = ∏ i : Fin m, (P i - N i + 1) := by
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 14]
```diff
@@ -0,0 +1,237 @@
...
+  rw [Pi.card_Icc N P, Nat.cast_prod]
+  congr
+  ext i
+  rw [Int.card_Icc_of_le (N i) (P i) (N_le_P_add_one m n A i)]
+  exact add_sub_right_comm (P i) 1 (N i)
+
+/-- The sup norm of a non-zero integer matrix is at lest one  -/
+lemma one_le_norm_A_of_ne_zero : 1 ≤ ‖A‖ := by
+  by_contra h
+  apply lt_of_not_le at h
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:140]:
```suggestion
  by_contra! h
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 15]
```diff
@@ -0,0 +1,237 @@
...
+  apply hA
+  ext i j
+  simp only [zero_apply]
+  rw [norm_lt_iff Real.zero_lt_one] at h
+  specialize h i j
+  rw [Int.norm_eq_abs] at h
+  norm_cast at h
+  apply (Int.abs_lt_one_iff.1 h)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:148]:
```suggestion
  exact Int.abs_lt_one_iff.1 h
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 16]
```diff
@@ -0,0 +1,237 @@
...
+
+-- # Step 2: S.card < T.card
+
+open Real Nat
+
+private lemma card_S_lt_card_T : (S).card < (T).card := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:154]:
```suggestion
private lemma card_S_lt_card_T : S.card < T.card := by
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 17]
```diff
@@ -0,0 +1,237 @@
...
+local notation3 "e" => m / ((n : ℝ) - m) --exponent
+local notation3 "B" => Nat.floor (((n : ℝ) * ‖A‖) ^ e)
+-- B' is the vector with all components = B
+local notation3 "B'" => fun _ : Fin n => (B : ℤ)
+-- T is the box [0 B]^n
+local notation3 "T" =>  Finset.Icc 0 B'
+local notation3  "P" => fun i : Fin m => (∑ j : Fin n, B * posPart (A i j))
+local notation3  "N" => fun i : Fin m =>  (∑ j : Fin n, B * (- negPart (A i j)))
+-- S is the box where the image of T goes
+local notation3  "S" => Finset.Icc N P
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:71]:
```suggestion
local notation3 "P" => fun i : Fin m ↦ ∑ j : Fin n, B * posPart (A i j)
local notation3 "N" => fun i : Fin m ↦ ∑ j : Fin n, B * (- negPart (A i j))
-- S is the box where the image of T goes
local notation3 "S" => Finset.Icc N P
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 18]
```diff
@@ -0,0 +1,237 @@
...
+  zify --this is necessary to use card_S_eq
+  rw [card_T_eq, card_S_eq]
+  rify --this is necessary because ‖A‖ is a real number
+  calc
+  ∏ x : Fin m, (∑ x_1 : Fin n, ↑B * ↑(A x x_1)⁺ - ∑ x_1 : Fin n, ↑B * -↑(A x x_1)⁻ + 1)
+    ≤ (n * ‖A‖ * B + 1) ^ m := by
+      rw [← Fin.prod_const m (n * ‖A‖ * B + 1)] --transform ^m into a product
+      apply Finset.prod_le_prod --two goals
+      all_goals intro i _
+      · obtain h:= N_le_P_add_one m n A i
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:164]:
```suggestion
      · have h := N_le_P_add_one m n A i
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 19]
```diff
@@ -0,0 +1,237 @@
...
+        rify at h
+        linarith only [h]
+      · simp only [mul_neg, sum_neg_distrib, sub_neg_eq_add, add_le_add_iff_right]
+        have h1 : n * ‖A‖ * B = ∑ _ : Fin n, ‖A‖ * B := by
+          simp only [sum_const, card_univ, Fintype.card_fin, nsmul_eq_mul, (mul_assoc ↑n ‖A‖ ↑B)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:169]:
```suggestion
          simp only [sum_const, card_univ, Fintype.card_fin, nsmul_eq_mul, mul_assoc ↑n ‖A‖ ↑B]
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 20]
```diff
@@ -0,0 +1,237 @@
...
+        rw [h1, ← Finset.sum_add_distrib]
+        gcongr with j _
+        rw [← mul_add, ← Int.cast_add, posPart_add_negPart (A i j), mul_comm]
+        apply mul_le_mul_of_nonneg_right _ (Nat.cast_nonneg B)
+        rw [Int.cast_abs]
+        exact norm_entry_le_entrywise_sup_norm A
+  _  ≤ (n * ‖A‖) ^ m * (B + 1) ^ m := by
+        rw [← mul_pow]
+        apply pow_le_pow_left (add_nonneg _ (zero_le_one' ℝ)) _ --two goals
+        · exact (mul_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) (Nat.cast_nonneg B))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:179]:
```suggestion
        · exact mul_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) (Nat.cast_nonneg B)
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 21]
```diff
@@ -0,0 +1,237 @@
...
+        · rw [mul_add]
+          simp only [mul_one, add_le_add_iff_left]
+          exact Left.one_le_mul_of_le_of_le
+              (by exact_mod_cast Nat.one_le_of_lt hn) (one_le_norm_A_of_ne_zero m n A hA)
+              (Nat.cast_nonneg n)
+  _ = ((n * ‖A‖) ^ ((m / ((n : ℝ) - m)))) ^ ((n : ℝ) - m)  * (B + 1) ^ m := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:185]:
```suggestion
  _ = ((n * ‖A‖) ^ ((m / ((n : ℝ) - m)))) ^ ((n : ℝ) - m) * (B + 1) ^ m := by
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 22]
```diff
@@ -0,0 +1,237 @@
...
+        rw [mul_left_inj' (pow_ne_zero m (Nat.cast_add_one_ne_zero B)),
+          ← rpow_mul (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)), ← Real.rpow_natCast]
+        congr
+        rw [div_mul_cancel₀]
+        apply sub_ne_zero_of_ne
+        exact_mod_cast Nat.ne_of_lt' hn
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:191]:
```suggestion
          ← rpow_mul (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)), ← Real.rpow_natCast, div_mul_cancel₀]
        exact sub_ne_zero_of_ne (mod_cast hn.ne')
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 23]
```diff
@@ -0,0 +1,237 @@
...
+  _ < (B + 1) ^ ((n : ℝ) - m) * (B + 1) ^ m := by
+        rw [mul_lt_mul_right (pow_pos (Nat.cast_add_one_pos B) m)]
+        apply rpow_lt_rpow --three goals
+        · exact rpow_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) e
+        · exact Nat.lt_floor_add_one ((n * ‖A‖) ^ e)
+        · simp only [sub_pos, Nat.cast_lt]
+          exact hn
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:198]:
```suggestion
        · simpa only [sub_pos, cast_lt] using hn
```
BTW, `Nat.cast_nonneg n` can be written as `n.cast_nonneg` etc. ("dot notation").

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 24]
```diff
@@ -0,0 +1,237 @@
...
+  _ = (B + 1) ^ n := by
+        rw [← rpow_natCast, ← rpow_add (Nat.cast_add_one_pos B), ← rpow_natCast, sub_add_cancel]
+
+end preparation
+
+theorem exists_ne_zero_int_vec_norm_le  (hA_nezero : A ≠ 0)  : ∃ (t : Fin n → ℤ), t ≠ 0 ∧
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:204]:
```suggestion
theorem exists_ne_zero_int_vec_norm_le (hA_nezero : A ≠ 0) : ∃  t : Fin n → ℤ, t ≠ 0 ∧
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 25]
```diff
@@ -0,0 +1,237 @@
...
+    A.mulVec t = 0 ∧ ‖t‖ ≤ ((n * ‖A‖)^((m : ℝ) / (n - m))) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:205]:
```suggestion
    A.mulVec t = 0 ∧ ‖t‖ ≤ ((n * ‖A‖) ^ ((m : ℝ) / (n - m))) := by
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 26]
```diff
@@ -0,0 +1,237 @@
...
+  --Pigeonhole
+  rcases Finset.exists_ne_map_eq_of_card_lt_of_maps_to
+    (card_S_lt_card_T m n A hn hA_nezero) (image_T_subset_S m n A)
+    with ⟨x, hxT, y, hyT, hneq, hfeq⟩
+  use x-y
+  -- proofs that x - y ≠ 0 and x-y is a solution
+  refine ⟨sub_ne_zero.mpr hneq, (by simp only [mulVec_sub, sub_eq_zero, hfeq]), ?_⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:212]:
```suggestion
  -- proofs that x - y ≠ 0 and x-y is a solution
  refine ⟨x - y, sub_ne_zero.mpr hneq, by simp only [mulVec_sub, sub_eq_zero, hfeq], ?_⟩
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 27]
```diff
@@ -0,0 +1,237 @@
...
+  ---Inequality
+  have n_mul_norm_A_pow_e_nonneg : 0 ≤ (n * ‖A‖) ^ e :=
+      Real.rpow_nonneg (mul_nonneg (Nat.cast_nonneg n) (le_of_lt (norm_pos_iff'.mpr hA_nezero))) e
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:215]:
```suggestion
  have n_mul_norm_A_pow_e_nonneg : 0 ≤ (n * ‖A‖) ^ e := by positivity
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 28]
```diff
@@ -0,0 +1,237 @@
...
+  rw [← norm_col, norm_le_iff n_mul_norm_A_pow_e_nonneg]
+  intro i j
+  simp only [col_apply, Pi.sub_apply, ge_iff_le]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:218]:
```suggestion
  simp only [col_apply, Pi.sub_apply]
```
`simp?` likes to include this even when it is not necessary.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 29]
```diff
@@ -0,0 +1,237 @@
...
+  rw [Int.norm_eq_abs, ← Int.cast_abs]
+  refine le_trans ?_ (Nat.floor_le n_mul_norm_A_pow_e_nonneg)
+  norm_cast
+  rw [abs_le]--two goals
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:222]: It is still one goal at this point (a conjunction).

BTW, can you use a consistent style for the comments? (e.g., " -- <comment>")

**Comment by MichaelStollBayreuth** [comment]
This looks quite good! My comments are mostly about minor stylistic points.
It wil be great to have Siegel's Lemma in Mathlib for further applications in Diophantine Approximation!

**Comment by fbarroero** [comment]
> This looks quite good! My comments are mostly about minor stylistic points. It wil be great to have Siegel's Lemma in Mathlib for further applications in Diophantine Approximation!

Thanks for the feedback and the suggestions, Michael!
I implemented all the changes your suggested

**Comment by riccardobrasca** [comment]
> > This looks quite good! My comments are mostly about minor stylistic points. It wil be great to have Siegel's Lemma in Mathlib for further applications in Diophantine Approximation!
> 
> Thanks for the feedback and the suggestions, Michael! I implemented all the changes your suggested

Can you please hit the "resolve" button on the comment you've adressed?

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 30]
```diff
@@ -0,0 +1,215 @@
...
+  --Pigeonhole
+  rcases Finset.exists_ne_map_eq_of_card_lt_of_maps_to
+    (card_S_lt_card_T m n A hn hA_nezero) (image_T_subset_S m n A)
+    with ⟨x, hxT, y, hyT, hneq, hfeq⟩
+  --proofs that x - y ≠ 0 and x-y is a solution
+  refine ⟨x - y, sub_ne_zero.mpr hneq, by simp only [mulVec_sub, sub_eq_zero, hfeq], ?_⟩
+  --Inequality
+  have n_mul_norm_A_pow_e_nonneg : 0 ≤ (n * ‖A‖) ^ e := by positivity
+  have : ‖x - y‖ = ‖col (Fin 1) (x - y)‖ := by exact Eq.symm (norm_col (x - y))
+  rw [this, norm_le_iff n_mul_norm_A_pow_e_nonneg]
```
Comment (fbarroero) [inline Mathlib/NumberTheory/SiegelsLemma.lean:194]: Earlier today, when I updated Mathlib, the proof broke here.
Instead of `this` there used to be `← norm_col` but it gave the error 
`typeclass instance problem is stuck, it is often due to metavariables
  Unique ?m.174974`
I fixed it in that way but I imagine there is a better way.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/SiegelsLemma.lean:194]: You can use `← norm_col (ι := Unit)`. The statement of `norm_col` changed in #11536.

Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean]: Thanks!

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 17 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SiegelsLemma.lean]: There are still extra spaces (before `"P"`, `"N"`, `"S"` and the last `∑`.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 31]
```diff
@@ -0,0 +1,214 @@
...
+  rw [← norm_col (ι := Unit), norm_le_iff n_mul_norm_A_pow_e_nonneg]
+  intro i j
+  simp only [col_apply, Pi.sub_apply]
+  rw [Int.norm_eq_abs, ← Int.cast_abs]
+  refine le_trans ?_ (Nat.floor_le n_mul_norm_A_pow_e_nonneg)
+  norm_cast
+  rw [abs_le]
+  rw [Finset.mem_Icc] at hyT
+  rw [Finset.mem_Icc] at hxT
+  constructor--two goals
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:202]:
```suggestion
  constructor --two goals
```

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 17 above)
Comment (fbarroero) [reply Mathlib/NumberTheory/SiegelsLemma.lean]: Sorry, I missed that. It should be ok now

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 32]
```diff
@@ -0,0 +1,214 @@
...
+        · exact rpow_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) e
+        · exact Nat.lt_floor_add_one ((n * ‖A‖) ^ e)
+        · simpa only [sub_pos, Nat.cast_lt] using hn
+  _ = (B + 1) ^ n := by
+        rw [← rpow_natCast, ← rpow_add (Nat.cast_add_one_pos B), ← rpow_natCast, sub_add_cancel]
+
+end preparation
+
+theorem exists_ne_zero_int_vec_norm_le  (hA_nezero : A ≠ 0) : ∃ t : Fin n → ℤ, t ≠ 0 ∧
+    A *ᵥ t = 0 ∧ ‖t‖ ≤ ((n * ‖A‖) ^ ((m : ℝ) / (n - m))) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:184]:
```suggestion
    A *ᵥ t = 0 ∧ ‖t‖ ≤ (n * ‖A‖) ^ ((m : ℝ) / (n - m)) := by
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 33]
```diff
@@ -0,0 +1,214 @@
...
+        rw [mul_left_inj' (pow_ne_zero m (Nat.cast_add_one_ne_zero B)),
+          ← rpow_mul (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)), ← Real.rpow_natCast,
+          div_mul_cancel₀]
+        exact sub_ne_zero_of_ne (mod_cast hn.ne')
+  _ < (B + 1) ^ ((n : ℝ) - m) * (B + 1) ^ m := by
+        rw [mul_lt_mul_right (pow_pos (Nat.cast_add_one_pos B) m)]
+        apply rpow_lt_rpow --three goals
+        · exact rpow_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) e
+        · exact Nat.lt_floor_add_one ((n * ‖A‖) ^ e)
+        · simpa only [sub_pos, Nat.cast_lt] using hn
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:177]:
```suggestion
        gcongr
        · exact sub_pos.mpr (mod_cast hn)
        · exact Nat.lt_floor_add_one ((n * ‖A‖) ^ e)
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 34]
```diff
@@ -0,0 +1,214 @@
...
+        · exact mul_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) (Nat.cast_nonneg B)
+        · rw [mul_add]
+          simp only [mul_one, add_le_add_iff_left]
+          exact Left.one_le_mul_of_le_of_le
+              (by exact_mod_cast Nat.one_le_of_lt hn) (one_le_norm_A_of_ne_zero m n A hA)
+              (Nat.cast_nonneg n)
+  _ = ((n * ‖A‖) ^ (m / ((n : ℝ) - m))) ^ ((n : ℝ) - m)  * (B + 1) ^ m := by
+        rw [mul_left_inj' (pow_ne_zero m (Nat.cast_add_one_ne_zero B)),
+          ← rpow_mul (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)), ← Real.rpow_natCast,
+          div_mul_cancel₀]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:170]:
```suggestion
        congr 1
        rw [← rpow_mul (mul_nonneg n.cast_nonneg (norm_nonneg A)), ← Real.rpow_natCast, div_mul_cancel₀]
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 35]
```diff
@@ -0,0 +1,214 @@
...
+        exact norm_entry_le_entrywise_sup_norm A
+  _  ≤ (n * ‖A‖) ^ m * (B + 1) ^ m := by
+        rw [← mul_pow]
+        apply pow_le_pow_left (add_nonneg _ (zero_le_one' ℝ)) _ --two goals
+        · exact mul_nonneg (mul_nonneg (Nat.cast_nonneg n) (norm_nonneg A)) (Nat.cast_nonneg B)
+        · rw [mul_add]
+          simp only [mul_one, add_le_add_iff_left]
+          exact Left.one_le_mul_of_le_of_le
+              (by exact_mod_cast Nat.one_le_of_lt hn) (one_le_norm_A_of_ne_zero m n A hA)
+              (Nat.cast_nonneg n)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:166]:
```suggestion
        rw [← mul_pow, mul_add, mul_one]
        gcongr
        have H : 1 ≤ (n : ℝ) := mod_cast (hm.trans hn)
        exact one_le_mul_of_one_le_of_one_le H <| one_le_norm_A_of_ne_zero m n A hA
```

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 36]
```diff
@@ -0,0 +1,214 @@
...
+private lemma card_S_lt_card_T : (S).card < (T).card := by
+  zify --this is necessary to use card_S_eq
+  rw [card_T_eq, card_S_eq]
+  rify --this is necessary because ‖A‖ is a real number
+  calc
+  ∏ x : Fin m, (∑ x_1 : Fin n, ↑B * ↑(A x x_1)⁺ - ∑ x_1 : Fin n, ↑B * -↑(A x x_1)⁻ + 1)
+    ≤ (n * ‖A‖ * B + 1) ^ m := by
+      rw [← Fin.prod_const m (n * ‖A‖ * B + 1)] --transform ^m into a product
+      apply Finset.prod_le_prod --two goals
+      all_goals intro i _
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:145]:
```suggestion
      refine Finset.prod_le_prod (fun i _ ↦ ?_) (fun i _ ↦ ?_)
```
I prefer this, but it is a matter of taste.

File: Mathlib/NumberTheory/SiegelsLemma.lean [hunk 37]
```diff
@@ -0,0 +1,214 @@
...
+        linarith only [h]
+      · simp only [mul_neg, sum_neg_distrib, sub_neg_eq_add, add_le_add_iff_right]
+        have h1 : n * ‖A‖ * B = ∑ _ : Fin n, ‖A‖ * B := by
+          simp only [sum_const, card_univ, Fintype.card_fin, nsmul_eq_mul, mul_assoc ↑n ‖A‖ ↑B]
+        rw [h1, ← Finset.sum_add_distrib]
+        gcongr with j _
+        rw [← mul_add, ← Int.cast_add, posPart_add_negPart (A i j), mul_comm]
+        apply mul_le_mul_of_nonneg_right _ (Nat.cast_nonneg B)
+        rw [Int.cast_abs]
+        exact norm_entry_le_entrywise_sup_norm A
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/SiegelsLemma.lean:157]:
```suggestion
        simp_rw [h1, ← Finset.sum_add_distrib, ← mul_add, mul_comm ‖A‖, ← Int.cast_add]
        gcongr with j _
        rw [posPart_add_negPart (A i j), Int.cast_abs]
        exact norm_entry_le_entrywise_sup_norm A
```

**Comment by MichaelStollBayreuth** [comment]
Sorry for the long line! I was using the web editor, which does not show the 100 character limit.

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by fbarroero** [comment]
> LGTM!

Thank you @MichaelStollBayreuth for everything. I learnt a lot from your comments!

File: Mathlib/NumberTheory/SiegelsLemma.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/SiegelsLemma.lean]: I see this comment has unfortunately not been taken into account. It is not a great deal, but apart from the golfing I believe this lemma should not stay there but be mobed to `Analysis.Matrix`.

**Comment by faenuccio** [comment]
Some comments:
1. I have seen that my suggestion to (golf the proof of, and) move the first lemma towards `Analysis.Matrix` has not been taken into account. The golfing is not a big deal (although `fun a \mapsto a` is usually written `(\.)`) but the moving might be important.
2. I think you forgot an "n" in Pigeonhole
3. When you apply a `rw [foo]` to two things you can compact those with `rw [foo] at h1 h2` instead of using two lines.

But thanks for the work!

**Comment by MichaelStollBayreuth** [comment]
@faenuccio I had not realized that the first lemma had not been moved before hitting "maintainer merge". Sorry about that! I can make a PR to fix this.

**Comment by faenuccio** [comment]
> @faenuccio I had not realized that the first lemma had not been moved before hitting "maintainer merge". Sorry about that! I can make a PR to fix this.

Thanks! Then I would immediately hit `maintainer merge` 😄

**Comment by MichaelStollBayreuth** [comment]
In fact, the lemma was just removed [here](https://github.com/leanprover-community/mathlib4/pull/13487/commits/28788163248f620e21287dd90de968b8707f8b25). @faenuccio Do you still think it should be added to `Analysis.Matrix`?

**Comment by faenuccio** [comment]
Good catch, I had not noticed! Then no, I believe it is not needed (I just thought that if it were to appear somewhere, this was not the right place). So all is good @MichaelStollBayreuth , thanks!
